US05631262
10(j) 3-Aminophenol t butylcarbamate
3-Aminophenol (2.0 g, 18.3 mmol; Aldrich) was dissolved in CH2Cl2 (18 mL) and DMF (6 mL) and treated with di-t butyl dicarbonate (5.0 mL, 21.7 mmol). The reaction was stirred under an argon atmosphere for 18 hours. The reaction solution was diluted with EtOAc and washed with H2O and brine and dried (MgSO4). Purification by flash column chromatography (silica, EtOAc:hexane:CH2Cl2, 15:60:25) gave a colorless solid: 1H NMR (250 MHz, CDCl3) δ 7.15 (m, 2H, aryl), 6.72 (m, 1H, aryl), 6.53 (m, 2H, aryl, OH), 6.0 (s, 1H, NH), 1.54 (s, 9H, t butyl); MS (CI): 210.2 (M+H); mp 95°-97° C.

reactant | 3-Aminophenol | 18.3 mmol, 2.0 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | di-t butyl dicarbonate | 21.7 mmol, 5.0 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Aminophenol t butylcarbamate | C(C)(C)(C)NC(=O)OC1=CC(=CC=C1)N | C11H16N2O2
